US04347388
126 g (1 mole) of 5-methyl-hept-3-en-2-one are added in the course of 1 hour, with stirring, to 1 liter of a 1.1 molar solution of ethynyl-magnesium chloride in tetrahydrofuran, at 10° C. After allowing about a further hour for reaction, the mixture is worked up similarly to Example 1. 126 g of 3,6-dimethyl-oct-4-en-1-yn-3-ol, of boiling point 41° C./0.05 mbar and nD25 =1.4514, are obtained. This corresponds to a yield of 83% of theory. Scent: woody, herbal, fatty.

reactant | 5-methyl-hept-3-en-2-one | 1 mole, 126 g | CC(C=CC(C)=O)CC | C8H14O
reactant | ethynyl-magnesium chloride | C(#C)[Mg]Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,6-dimethyl-oct-4-en-1-yn-3-ol | 126 g, yield of 83% | CC(C#C)(C=CC(CC)C)O | C10H16O
